* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 08:12

.SUBCKT buffer IN|OUT GND IN|OUT$1 IN|OUT$2 OUT IN VDD
M$1 GND IN IN|OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$2 GND IN|OUT$2 OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$3 GND IN|OUT$1 IN|OUT$2 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$4 GND IN|OUT IN|OUT$1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$5 VDD IN IN|OUT VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$6 VDD IN|OUT$2 OUT VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$7 VDD IN|OUT$1 IN|OUT$2 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$8 VDD IN|OUT IN|OUT$1 VDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
C$9 IN|OUT GND cap_cmim w=7u l=7u A=49p P=28u m=1
.ENDS buffer
